US07576218B2
4-chloro-3-methoxybenzyl alcohol (5 g, 1 equiv) in 15 mL of DCM was treated with thionyl chloride (5 mL, 3 equiv) at reflux for 2 hours. Evaporation of volatiles gave 4-chloro-3-methoxybenzyl chloride.

reactant | 4-chloro-3-methoxybenzyl alcohol | 5 g, 1 equiv | ClC1=C(C=C(CO)C=C1)OC | C8H9ClO2
reactant | thionyl chloride | 5 mL, 3 equiv | S(=O)(Cl)Cl | Cl2OS
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-3-methoxybenzyl chloride | ClC1=C(C=C(CCl)C=C1)OC | C8H8Cl2O
